US07179823B1
A mixture of ethyl 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylate (1.79 g), potassium hydroxide (0.75 g) and ethanol (30 ml) was refluxed for 5 hours. After removal of the solvent under reduced pressure, water was added to the reaction mixture, then the mixture was acidified with 1N hydrochloric acid. The crystals obtained were collected by filtration to yield 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-carboxylic acid (1.36 g, yield: 82%). This was recrystallized from acetone-hexane. Melting point: 152–153° C.

reactant | ethyl 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylate | 1.79 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C26H24N2O3
reactant | potassium hydroxide | 0.75 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-carboxylic acid | 1.36 g, yield: 82% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C(=O)O)C2=CC=CC=C2)C=C1 | C24H20N2O3
